US07214704B2
Part II: 1-Carbomethoxy-2-benzylamino-3,4-dihydronaphthalene
To a solution of 1-carbomethoxy-2-oxo-1,2,3,4-tetrahydronaphthalene (10.2 g) and isobutyric acid (4.84 g) in toluene (150 mL) stirring at room temperature under argon, was added benzylamine (5.35 g). The resulting mixture was heated to reflux for 2 h with water removal using a Dean-Stark trap. The solvent was then evaporated under vacuum to provide the title compound (15 g) as a yellow gum.

reactant | 1-carbomethoxy-2-oxo-1,2,3,4-tetrahydronaphthalene | 10.2 g | C(=O)(OC)C1C(CCC2=CC=CC=C12)=O | C12H12O3
reactant | isobutyric acid | 4.84 g | C(C(C)C)(=O)O | C4H8O2
reactant | benzylamine | 5.35 g | C(C1=CC=CC=C1)N | C7H9N
reactant | water | O | H2O
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 1-Carbomethoxy-2-benzylamino-3,4-dihydronaphthalene | 15 g | C(=O)(OC)C1=C(CCC2=CC=CC=C12)NCC1=CC=CC=C1 | C19H19NO2
